US04332829
Preparation of Methylthiomethyl Octanoate
This product was prepared according to the procedure described in Example 1, by reacting octanoic acid with chloromethyl methyl sulfide in the presence of one equivalent of triethylamine; b.p. 90° C./2 mm Hg, nD20 1.4577.

reactant | octanoic acid | C(CCCCCCC)(=O)O | C8H16O2
reactant | chloromethyl methyl sulfide | CSCCl | C2H5ClS
reactant | triethylamine | one equivalent | C(C)N(CC)CC | C6H15N
product | Methylthiomethyl Octanoate | C(CCCCCCC)(=O)OCSC | C10H20O2S
